Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bike vs. Tree
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male under the influence of ETOH presents s/p bike
vs. tree on ___. He states that he was trying to avoid a 
car when
he ran into a tree with his bicycle. He also reported an 
incident
on ___ where he was intoxicated and fell. He states he has 
a
headache, but denied any loss of consciousness at time of
accident, nausea, vomiting, dizziness, or blurred vision. Head 
CT
showed small R SAH and L frontal contusions. 

 
Past Medical History:
GERD
ETOH 
MRSA
 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission:

PHYSICAL EXAM:
T:99.4  BP:146/112  HR: 94   R:20       O2Sats:99%RA
Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, R head laceration sutured in ED upon
arrival
Pupils: 4-3.5mm bilaterally        EOMs: intact
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,4 to 3.5
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Upon Discharge:
xxxxxxxxxxxx

 
Pertinent Results:
Head CT ___:
1. Multifocal intracranial hemorrhage, with subarachnoid 
hemorrhage overlying the bilateral frontal lobes anteriorly and 
the right temporal lobe. Likely additional hemorrhagic contusion 
in the left anterior frontal lobe, or intraparenchymal 
extension. Small anterior parafalcine subdural hemorrhage. 
2. Non-displaced fracture through the midline occipital bone 
extending to the foramen magnum. 
3. 5-mm radiodense likely foreign body in the posterior 
subcutaneous tissues overlying the occiput. 

Chest/Abdomen/Pelvic CT ___: 
1. No traumatic injury to the torso. No fractures. 
2. Degenerative changes in the lower lumbar spine. 
3. Small hiatal hernia. 

C-spine CT ___:

Head CT ___:
Stable appearance of known SAH and contusion. No hydrocephalus 
noted.

 
Brief Hospital Course:
___ year old male who was admitted after a bike vs. tree accident 
resulting in a right sided SAH, left frontal contusion, and 
occipital fracture. Patient was monitored inpatient with serial 
imaging which remained stable. Patient was also managed on a 
CIWA scale for known history of ETOH abuse. Social Work was 
consulted on ___.

He was evaluated by ___ and no needs were identified. Social 
Work was able to provide cab and train vouchers.

 
Medications on Admission:
Suboxone 8mg TID
Prilosec OTC
 
Discharge Medications:
1. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Tylenol ___ mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain.  
5. Percocet ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right traumatic SAH, Left frontal contusion and occipital 
fracture
ETOH Abuse

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
• Take your pain medicine as prescribed.
• Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
• Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
• Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc.
• Please take all medications as prescribed. 
• Do not take narcotics while consuming alcohol- this can be 
lethal.
• Please seek help regarding your alcohol intake.

***** You have head sutures in place from your head laceration. 
They were placed on ___ in the ER- please have them removed in 
___ days. You may have this done with your primary care doctor 
or with Dr. ___ ******

 
Followup Instructions:
___